US09126972B2
9.1: 2-Amino-1-ethyl-7-chloro-3-(1H-imidazol-2-yl)-1H-[1,8]naphthyridin-4-one
2-Amino-7-chloro-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one (1.0 g, 2.38 mmol) was dissolved in 30 mL of dichoromethane. 30 mL of trifluoroacetic acid were added and the reaction mixture was stirred at room temperature for 3 h, until analytical HPLC showed complete consumption of the starting material. Solvents were removed under reduced pressure, and ethyl acetate was added to the residue. The solution was washed with saturated aqueous sodium bicarbonate. The formed precipitate was collected by filtration, then put to dry out overnight at 40° C. under vacuum, yielding 574 mg of beige powder.

reactant | 2-Amino-7-chloro-1-ethyl-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-1H-[1,8]naphthyridin-4-one | 2.38 mmol, 1.0 g | NC=1N(C2=NC(=CC=C2C(C1C=1N(C=CN1)COCC[Si](C)(C)C)=O)Cl)CC | C19H26ClN5O2Si
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichoromethane | 30 mL | ClCCl | CH2Cl2
product | 2-Amino-1-ethyl-7-chloro-3-(1H-imidazol-2-yl)-1H-[1,8]naphthyridin-4-one | 574 mg, Yield=83% | NC=1N(C2=NC(=CC=C2C(C1C=1NC=CN1)=O)Cl)CC | C13H12ClN5O
